US06809108B1
Synthesis of (2R)-N-({(3R)-1-(tert-butoxycarbonyl)-3-piperidyl}methyl)-pyrrolidine-2-carboxamide
To a solution of 2.49 g of (2R)-1-benzyloxycarbonyl-N-({(3R)-1-(tert-butoxycarbonyl)-3-piperidyl}methyl)pyrrolidine-2-carboxamide in 20 ml of methanol, 15 mg of 20% palladium hydroxide-carbon catalyst was added, followed by 5 hours' stirring in hydrogen atmosphere. After filtering the catalyst off, the solvent was distilled off under reduced pressure to provide 1.78 g of the title compound.

reactant | (2R)-1-benzyloxycarbonyl-N-({(3R)-1-(tert-butoxycarbonyl)-3-piperidyl}methyl)pyrrolidine-2-carboxamide | 2.49 g | C(C1=CC=CC=C1)OC(=O)N1[C@H](CCC1)C(=O)NC[C@@H]1CN(CCC1)C(=O)OC(C)(C)C | C24H35N3O5
solvent | methanol | 20 ml | CO | CH4O
catalyst | palladium hydroxide carbon | 15 mg | [OH-].[Pd+2].[OH-].[C]
solvent | hydrogen | [H][H] | H2
product | (2R)-N-({(3R)-1-(tert-butoxycarbonyl)-3-piperidyl}methyl)-pyrrolidine-2-carboxamide | 1.78 g | C(C)(C)(C)OC(=O)N1C[C@H](CCC1)CNC(=O)[C@@H]1NCCC1 | C16H29N3O3
